US05489592
Methyl 3-(4-bromo-2-fluorophenyl)-2-propenoate
The 3-(4-bromo-2-fluorophenyl)-2-propenoic acid obtained (17.1 g, 0.0698 mol) is taken up in 250 ml of methanol and 0.5 ml of concentrated sulphuric acid and heated for 12 h at reflux. Evaporation is carried out under vacuum and the residue purified by chromatography on silica (eluent: 1/1 hexane/ethyl acetate). Yd.: 14.7 g (81%) M.p. : 63°-65° C.

reactant | 3-(4-bromo-2-fluorophenyl)-2-propenoic acid | BrC1=CC(=C(C=C1)C=CC(=O)O)F | C9H6BrFO2
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 250 ml | CO | CH4O
product | Methyl 3-(4-bromo-2-fluorophenyl)-2-propenoate | BrC1=CC(=C(C=C1)C=CC(=O)OC)F | C10H8BrFO2
